US07074819B2
Step 2) Synthesis of (3RS,4RS)-7-methoxy-3-(4-methoxyphenyl)-4-[5-(p-toluene-sulfonyloxy)pentyl]-3-methylchroman
(3RS,4RS)-4-(5-Hydroxypentyl)-7-methoxy-3-(4-methoxyphenyl)-3-methylchroman (430 mg, 1.2 mmol) was dissolved in a solvent mixture of pyridine (12 ml) and dichloromethane (4 ml), which was then cooled down to 0° C. p-Toluenesulfonylchloride (460 mg, 2.3 mmol) was added dropwise thereto, and the mixture was stirred at room temperature for 3 hours. Water was then added, and the organ layer was extracted with ethyl acetate. The organic extract was washed with 2N hydrochloric acid solution, dried over magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography (n-hexane:ethyl acetate=4:1) to give the title compound (315 mg, yield 53%) as a colorless oil.

reactant | (3RS,4RS)-4-(5-Hydroxypentyl)-7-methoxy-3-(4-methoxyphenyl)-3-methylchroman | 1.2 mmol, 430 mg | OCCCCCC1C(COC2=CC(=CC=C12)OC)(C)C1=CC=C(C=C1)OC | C23H30O4
reactant | p-Toluenesulfonylchloride | 2.3 mmol, 460 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Water | O | H2O
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | (3RS,4RS)-7-methoxy-3-(4-methoxyphenyl)-4-[5-(p-toluene-sulfonyloxy)pentyl]-3-methylchroman | 315 mg, yield 53% | COC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)OC)CCCCCOS(=O)(=O)C1=CC=C(C=C1)C | C30H36O6S
